US04785103
A mixture of 2.35 g of 17α-acetoxy-6β-chloro-7α-mesyloxy-2-oxa-4-pregnene-3,20-dione, 0.83 g of potassium acetate and 0.88 ml of dimethyl sulfoxide was stirred at room temperature for 12 hours. Ice-cooled water was poured into the reaction mixture, and the precipitated crystals were collected by filtration to give 1.37 g of 17α-acetoxy-6-chloro-2-oxapregna-4,6-diene-3,20-dione. The 1H NMR spectrum of this compound was the same as that of the compound produced in Example 1.

reactant | 17α-acetoxy-6β-chloro-7α-mesyloxy-2-oxa-4-pregnene-3,20-dione | 2.35 g | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3[C@@H]([C@H](C4=CC(OC[C@]4(C)[C@H]3CC[C@]12C)=O)Cl)OS(=O)(=O)C | C23H31ClO8S
reactant | potassium acetate | 0.83 g | C(C)(=O)[O-].[K+]
reactant | dimethyl sulfoxide | 0.88 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 17α-acetoxy-6-chloro-2-oxapregna-4,6-diene-3,20-dione | 1.37 g | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=C(C4=CC(OC[C@]4(C)[C@H]3CC[C@]12C)=O)Cl | C22H27ClO5
